US04124723
Sodium 4-(p-Chlorophenylthio)butyrate (Compound 1)
A hot solution of 13.8 g of 4-(p-chlorophenylthio)butyric acid was added to a hot solution of 3.2 g of sodium methoxide in 50 ml of isopropanol. The resulting mixture was cooled and filtered. The air-dried solid weighed 14.4 g.

reactant | 4-(p-chlorophenylthio)butyric acid | 13.8 g | ClC1=CC=C(C=C1)SCCCC(=O)O | C10H11ClO2S
reactant | sodium methoxide | 3.2 g | C[O-].[Na+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | Sodium 4-(p-Chlorophenylthio)butyrate | ClC1=CC=C(C=C1)SCCCC(=O)[O-].[Na+] | InChI=1S/C10H11ClO2S.Na/c11-8-3-5-9(6-4-8)14-7-1-2-10(12)13;/h3-6H,1-2,7H2,(H,12,13);/q;+1/p-1
